data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_291068_1,[C@:1]12([C:3]([H:13])([H:14])[H:15])[C@:8]([H:12])([C@:7]([C:2]([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])[H:11])([C:4]([H:16])([H:17])[H:18])[O:9]1)[O:10]2>>[C:1]1([C:2]([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])[H:11])([C:3]([H:13])([H:14])[H:15])[O:9][C:7]([C:4]([H:16])([H:17])[H:18])=[C:8]([H:12])[O:10]1,56.6161875000202
MR_664553_2,[C:1]1([N:5]([H:10])[H:12])([N:6]([H:11])[H:13])[N:3]([H:9])[C:2]([H:16])([H:17])[C:4]1([N:7]([H:14])[H:15])[O:8][H:18]>>[C:1]([N:3]([C:2]([H:16])([H:17])[H:18])[H:9])([C:4]([N:7]([H:14])[H:15])=[O:8])([N:5]([H:10])[H:12])[N:6]([H:11])[H:13],54.27875000003624
MR_372179_1,[C:1]([N:2](/[C:3]([O:6][H:9])=[N:7]/[N:4]([H:10])[H:11])/[C:5](=[N:8]/[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[N:2]=[C:3](/[O:6][H:9])[N:7]([N:4]([H:10])[H:11])/[C:5](=[N:8]/[H:12])[H:13])([H:14])([H:15])[H:16],57.531082500028816
MR_478514_1,[C:1](/[N:7]=[C:4](/[C:2]([H:15])([H:16])[H:17])[O:6]/[C:3]([N:5]([H:9])[H:10])=[N:8]/[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:7](/[C:3]([N:5]([H:9])[H:10])=[N:8]/[H:11])[C:4]([C:2]([H:15])([H:16])[H:17])=[O:6])([H:12])([H:13])[H:14],36.29209000000557
MR_211574_0,[C:1](/[C:2](=[N:5]\[O:4][H:7])[N:6]=[C:3]([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[N:6][C:3]([H:11])([H:12])[N:5]1[O:4][H:7])([H:8])([H:9])[H:10],32.58356500002336
MR_576353_1,[C:1]([C:3](/[C:2]([O:6][H:9])=[N:7]\[O:5][H:8])=[C:4]([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([C:3]1=[C:2]([O:6][H:9])[N:7]([O:5][H:8])[C:4]1([H:13])[H:14])([H:10])([H:11])[H:12],41.46770999999333
MR_69887_0,[N:1]([N:2]([H:7])[H:8])([C:3](=[O:6])[H:9])[N:4]=[O:5]>>[N:1](\[N:2]([H:7])[H:8])=[C:3](/[O:6][N:4]=[O:5])[H:9],26.76412999998462
MR_562459_1,[C:1]([C:2]([C:3](=[O:7])[H:11])=[O:6])([O:4][H:8])([O:5][H:9])[H:10]>>[C:1]([C@:3]1([H:11])[C:2](=[O:6])[O:7]1)([O:4][H:8])([O:5][H:9])[H:10],52.81228249999344
MR_345024_0,[C:1]([N:3]([O:7][H:8])[H:9])(/[C:4]([N:5]([H:10])[H:11])=[C:6](/[C:2]([H:15])([H:16])[H:17])[H:14])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[N:3]([O:7][H:8])[C@:4]1([N:5]([H:10])[H:11])[C:6]([C:2]([H:15])([H:16])[H:17])([H:9])[H:14],59.29435749999996
MR_433318_1,[C:1](=[C:4]([C:5]([C:2]([H:16])([H:17])[H:18])([C:3]([O:7][H:10])=[O:9])[N:6]([H:12])[H:13])[O:8][H:11])([H:14])[H:15]>>[C:1]([C:3]([O:7][H:10])=[O:9])(/[C:4](=[C:5](\[C:2]([H:16])([H:17])[H:18])[N:6]([H:12])[H:13])[O:8][H:11])([H:14])[H:15],65.82223999999783
MR_75632_1,[C:1](/[C:3]([C:2]([H:12])([H:13])[H:14])=[N:6]/[N:4]([H:8])[H:9])([O:5][H:7])([H:10])[H:11]>>[C:1](=[C:3](\[C:2]([H:12])([H:13])[H:14])[N:6]([N:4]([H:8])[H:9])[H:11])(\[O:5][H:7])[H:10],64.12736249996101
MR_93960_1,[C:1]1([H:10])([H:11])[N:3]([C:2]([H:13])([H:14])[H:15])[C:6]2([H:12])[N:4]([H:9])[N:7]2[C:5]1=[O:8]>>[C:1]1([H:10])([H:11])[N:3]([C:2]([H:13])([H:14])[H:15])[C:6]([H:12])=[N:7][N:4]([H:9])[C:5]1=[O:8],27.23287249997824
MR_77063_1,[C:1]([N:3](/[C:4](=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])[O:7][H:8])[N:5]([H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1]([C@:4]1([O:7][H:8])[N:3]([N:5]([H:9])[H:10])[C@:6]1([C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14],67.70787749998107
MR_474948_0,[C:1]([C:2]([C:5]([H:20])([H:21])[H:22])([C:6]([H:23])([H:24])[H:25])[H:11])([N:7]([C:4]([H:17])([H:18])[H:19])[O:9][C:3]([H:14])([H:15])[H:16])([N:8]([H:12])[H:13])[H:10]>>[C:1]([N:7]([C:2]([C:5]([H:20])([H:21])[H:22])([C:6]([H:23])([H:24])[H:25])[H:11])[C:4]([H:17])([H:18])[H:19])([N:8]([H:12])[H:13])([O:9][C:3]([H:14])([H:15])[H:16])[H:10],67.91306999999804
MR_49129_0,[C:1](/[C:3]([N:4]([H:9])[H:10])=[C:5](/[N:2]([C:6](=[C:7]([H:16])[H:17])[H:12])[H:8])[H:11])([H:13])([H:14])[H:15]>>[C:1](=[C:3]([N:4]([H:9])[H:10])[C:5]1([H:11])[N:2]([H:8])[C:6]1([C:7]([H:15])([H:16])[H:17])[H:12])([H:13])[H:14],66.98562500002112
MR_366787_1,[C:1]([C:3]12[N:2]([N:4]([H:8])[H:9])[C:5]1([H:10])[N:7]=[C:6]2[H:11])([H:12])([H:13])[H:14]>>[C:1]([c:3]1[n:2]([N:4]([H:8])[H:9])[c:5]([H:10])[n:7][c:6]1[H:11])([H:12])([H:13])[H:14],21.60921750001592
MR_385067_1,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:5]([C:3]([H:15])([H:16])[H:17])=[C:6](/[C:4]([H:18])([H:19])[H:20])[H:11])([O:7][O:8][H:9])[H:10]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:5](/[C:3]([H:15])([H:16])[H:17])[C:6]([C:4]([H:18])([H:19])[H:20])([O:7][O:8][H:9])[H:11])[H:10],46.11309250000005
MR_687696_1,[C:1](\[O:3][O:2][O:4][H:6])(=[N:5]\[H:7])[H:8]>>[C:1]1([N:5]([O:4][H:6])[H:7])([H:8])[O:2][O:3]1,52.33600999998316
MR_366111_1,[C:1](/[C:2]([C:4](=[O:6])[H:10])=[N:5]\[H:7])([N:3]([H:8])[H:9])([H:11])[H:12]>>[C:1](=[C:2]([N:3]([H:8])[H:9])[N:5]([C:4](=[O:6])[H:10])[H:7])([H:11])[H:12],67.60873250001737
MR_667840_0,[C:1]([N:2]([C:3](=[C:4]([H:13])[H:14])[O:5][H:8])/[N:6]=[N:7]\[H:9])([H:10])([H:11])[H:12]>>[C:1](/[N:2]=[N:6]/[N:7]([C:3](=[C:4]([H:13])[H:14])[O:5][H:8])[H:9])([H:10])([H:11])[H:12],48.595482499974736
